US08304557B2
3-[(tert-butoxycarbonyl)amino]-4-fluorophenyl tert-butyl carbonate
To a mixture of 3-amino-4-fluorophenol (18.7 g, 147 mmol), 10% aqueous sodium carbonate solution (148 mL) and tetrahydrofuran (300 mL) was added di-tert-butyldicarbonate (38.5 g, 176 mmol), and the mixture was stirred at room temperature for 4 hr, and at 80° C. for 14 hr. di-tert-Butyldicarbonate (122 g, 559 mmol) was added over 8 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate-hexane. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=95/5→70/30) to give the title compound (33.5 g, 70%) as a white solid.

reactant | 3-amino-4-fluorophenol | 147 mmol, 18.7 g | NC=1C=C(C=CC1F)O | C6H6FNO
reactant | sodium carbonate | 148 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
reactant | di-tert-butyldicarbonate | 176 mmol, 38.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-Butyldicarbonate | 559 mmol, 122 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(tert-butoxycarbonyl)amino]-4-fluorophenyl tert-butyl carbonate | 33.5 g, 70% | C(OC1=CC(=C(C=C1)F)NC(=O)OC(C)(C)C)(OC(C)(C)C)=O | C16H22FNO5
